US07411088B2
3-(4-oxo-cyclohexyl)propanoic acid
To the resulting solution of 3-(4-hydroxycyclohexyl)propanoic acid was added RuCl3 (42 g) and acetic acid (5.6 Kg). After cooling to 5° C., aqueous NaOCl (10-13%, 26 Kg) was added slowly with stirring, maintaining the temperature at 5° C. After stirring a further 3 hours at 5° C., 3N HCl (20 L) and IPAc (15 L) were added, the layers were separated and the aqueous layer extracted with IPAc (2×20 L). The combined organics were washed with 2M aqueous NaHSO3 (10 L), dried (MgSO4), treated with charcoal and filtered. The resulting solution was concentrated, and the solvent switched to heptane:IPAc 2:1 (20 L). This solution was seeded and the solvent switched to 9:1 heptane:IPAc, giving the product as a white solid which was collected, washed with heptane and dried under nitrogen.

reactant | 3-(4-hydroxycyclohexyl)propanoic acid | OC1CCC(CC1)CCC(=O)O | C9H16O3
reactant | NaOCl | 26 Kg | [O-]Cl.[Na+]
reactant | HCl | 3N, 20 L | Cl | ClH
solvent | acetic acid | 5.6 Kg | C(C)(=O)O | C2H4O2
product | 3-(4-oxo-cyclohexyl)propanoic acid | O=C1CCC(CC1)CCC(=O)O | C9H14O3
